US08791119B2
To a solution of 9.38 g (36.0 mmol) of methyl 5-chloro-4-(3-cyano-phenyl)-1H-pyrrole-3-carboxylate in 60 ml of acetonitrile are added 2.88 g (72.0 mmol) of powdered sodium hydroxide and 0.49 g (1.4 mmol) of tetrabutylammonium hydrogen sulfate, and the mixture is stirred vigorously for a few minutes, followed by adding 9.68 g (43.2 mmol) of tert-butyl(2-bromoethyl)carbamate (CAS 39684-80-5), and the mixture is then stirred for 6 hours at reflux. After cooling, the mixture is taken up in 250 ml of water and the product is extracted with ethyl acetate. The organic phase is then dried over sodium sulfate and the solvent is evaporated off under reduced pressure to give an orange-coloured oil, which is purified by chromatography on a column of 150 g of silica gel, eluting with a mixture of 2% methanol in dichloromethane, to give 13.5 g of methyl 1-(2-tert-butyloxycarbonylaminoethyl)-5-chloro-4-(3-cyanophenyl)-1H-pyrrole-3-carboxylate in the form of a yellow oil.

reactant | methyl 5-chloro-4-(3-cyano-phenyl)-1H-pyrrole-3-carboxylate | 36.0 mmol, 9.38 g | ClC1=C(C(=CN1)C(=O)OC)C1=CC(=CC=C1)C#N | C13H9ClN2O2
reactant | sodium hydroxide | 72.0 mmol, 2.88 g | [OH-].[Na+]
reactant | tert-butyl(2-bromoethyl)carbamate | 43.2 mmol, 9.68 g | C(C)(C)(C)OC(NCCBr)=O | C7H14BrNO2
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
catalyst | tetrabutylammonium hydrogen sulfate | 1.4 mmol, 0.49 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 250 ml | O | H2O
product | methyl 1-(2-tert-butyloxycarbonylaminoethyl)-5-chloro-4-(3-cyanophenyl)-1H-pyrrole-3-carboxylate | 13.5 g | C(C)(C)(C)OC(=O)NCCN1C=C(C(=C1Cl)C1=CC(=CC=C1)C#N)C(=O)OC | C20H22ClN3O4
